US08372867B2
A solution of methyl 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylbenzoate (1.0 g) in tetrahydrofuran (30 mL) was added dropwise to a solution of lithium aluminum hydride (0.1 g) in tetrahydrofuran (50 mL) under ice cooling, and, after finishing the addition, the mixture was stirred for one hour at room temperature. The reaction solution was poured onto ice, and then 2N hydrochloric acid (30 mL) was added by portions. The mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product of {4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylphenyl}methanol (0.9 g).

reactant | methyl 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylbenzoate | 1.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)OC)C=C1)C)C(F)(F)F | C19H14Cl2F3NO3
reactant | lithium aluminum hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2N, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | {4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-methylphenyl}methanol | 0.9 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)CO)C)C(F)(F)F | C18H14Cl2F3NO2
